US07223879B2
4-(3,5-Dimethylphenylamino)benzamide
Following the general procedure, 3,5-dimethylphenyl benzenesulfonate (131 mg, 0.5 mmol) was coupled with 4-aminobenzamide (102 mg, 0.75 mmol) with the reaction time of 6 h. Chromatography on silica gel column with ethyl acetate gave 115 mg (96%) of the title compound as a white solid.

reactant | 3,5-dimethylphenyl benzenesulfonate | 0.5 mmol, 131 mg | C1(=CC=CC=C1)S(=O)(=O)OC1=CC(=CC(=C1)C)C | C14H14O3S
reactant | 4-aminobenzamide | 0.75 mmol, 102 mg | NC1=CC=C(C(=O)N)C=C1 | C7H8N2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3,5-Dimethylphenylamino)benzamide | 115 mg, 96% | CC=1C=C(C=C(C1)C)NC1=CC=C(C(=O)N)C=C1 | C15H16N2O
